US04091011
d. 2,4-Dichloro-3,5-diaminobenzonitrile
A solution of 330 g. (1.46 mole) of stannous chloride dihydrate in 807 ml. of concentrated hydrochloric acid is stirred and there is added 53.5 gm. (0.204 mole) of 2,4-dichloro-3,5-dinitrobenzonitrile. The temperature rises to 85° and is then allowed to cool to room temperature over a period of 2 hours. The mixture is cooled to 5° in an ice-bath and there is added, slowly, 50% sodium hydroxide until the mixture is strongly basic. The precipitate is removed by filtration. The filtrate is placed in a separatory funnel. The precipitate is extracted with three volumes of ethyl acetate. The combined ethyl acetate extracts are added to the aqueous filtrate and the resulting mixture shaken thoroughly for ten minutes. The phases are separated and the organic phase dried over magnesium sulfate. The drying agent is removed by filtration. The filtrate is evaporated to dryness in vacuo. The yellow solid is recrystallized from absolute ethanol to yield 33.7 g. (82%) of yellow needles melting at 189°-191°.

reactant | hydrochloric acid | Cl | ClH
reactant | 2,4-dichloro-3,5-dinitrobenzonitrile | 0.204 mole | ClC1=C(C#N)C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-] | C7HCl2N3O4
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,4-Dichloro-3,5-diaminobenzonitrile | ClC1=C(C#N)C=C(C(=C1N)Cl)N | C7H5Cl2N3
